US05274113
The 2-(2-methoxycarbonylethyl)pyrrole is prepared as follows: A solution of pyrrole-2-carboxaldehyde (3.9 g, 41 mmol) and (carbomethoxymethylene)-triphenylphosphorane (14 g, 42 mmol) in 160 mL of dry benzene is heated at reflux for 18 hours under a nitrogen atmosphere. After cooling, the reaction mixture is concentrated under vacuum and the resulting oil is purified by silica gel column chromatography, eluting with a mixture of ethyl acetate and hexane (1:9) to give 5.11 g of a mixture of cis- and trans-methyl 2-(2-pyrrolyl)acrylate.

reactant | pyrrole-2-carboxaldehyde | 41 mmol, 3.9 g | N1C(=CC=C1)C=O | C5H5NO
reactant | (carbomethoxymethylene)-triphenylphosphorane | 42 mmol, 14 g | C(=O)(OC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19O2P
solvent | benzene | 160 mL | C1=CC=CC=C1 | C6H6
product | 2-(2-methoxycarbonylethyl)pyrrole | COC(=O)CCC=1NC=CC1 | C8H11NO2
